US08445493B2
(S)-4,5-Dimethyl-3-(3-methylpiperazin-1-yl)-6-phenylpyridazine
Treat a solution of (S)-tert-butyl 4-(4,5-dimethyl-6-phenylpyridazin-3-yl)-2-methylpiperazine-1-carboxylate (2.93 g, 7.66 mmol) in MeOH (20 mL) with 4 M HCl in 1,4-dioxane (10 mL, 40.0 mmol). Stir the reaction mixture at ambient temperature overnight. Concentrate the reaction mixture under reduced pressure. Dissolve the residue in MeOH, and pour onto an SCX column (Varian, 10 g). Rinse the column with MeOH. Elute the desired product with 2M NH3/MeOH. Concentrate under reduced pressure to afford the title compound (2.07 g, 95%). ES/MS m/z 283.0 (M+1).

reactant | (S)-tert-butyl 4-(4,5-dimethyl-6-phenylpyridazin-3-yl)-2-methylpiperazine-1-carboxylate | 7.66 mmol, 2.93 g | CC1=C(N=NC(=C1C)C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C22H30N4O2
reactant | HCl | 4 M | Cl | ClH
reactant | 1,4-dioxane | 40.0 mmol, 10 mL | O1CCOCC1 | C4H8O2
solvent | MeOH | 20 mL | CO | CH4O
product | (S)-4,5-Dimethyl-3-(3-methylpiperazin-1-yl)-6-phenylpyridazine | 2.07 g, 95% | CC1=C(N=NC(=C1C)C1=CC=CC=C1)N1C[C@@H](NCC1)C | C17H22N4
